Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / ibuprofen / Humalog / all fish
 
Attending: ___.
 
Chief Complaint:
R Calf Pain, R Foot Pain

 
Major Surgical or Invasive Procedure:
___: Right common femoral endarterectomy,  Right common 
femoral thrombectomy, iliac, profunda and superficial femoral 
artery.
___: Right ___ tibial artery bypass w/ 
spliced Right greater saphenous vein

 
History of Present Illness:
___ y.o. male with a past medical history pertinent for protein C 
deficiency and
recurrent thromboembolic disorder (including chronic 
thromboembolic pulmonary hypertension [___] s/p pulmonary 
thromboendarterectomy at ___ in ___ multiple recurrent 
bilateral DVTs), maintained on lovenox 80 mg bid and life long 
Coumadin.  His vascular surgical history is pertinent for severe 
PAD and has priory undergone a attempt bypass (SFA to ___ bypass 
with ___ GSV on ___ revascularization, which 
failed due to DVT and superimposed cellulitis requiring BKA in  
___. 

He noted ulcers three days prior to presentation on the volar 
aspect of the R foot, which were without discharge or drainage. 
He noted a second ulcer over the dorsal aspect of his fifth toe, 
then erythema over the foot progressing to the middle of his 
calf.  He had poor p.o. intake secondary to pain.  He denied 
headaches, chest pain, dyspnea, fevers, chills, melena.

 
Past Medical History:
Past Medical History:
- Chronic thromboembolic pulmonary hypertension (CTEPH). s/p PTE
___ with very good hemodynamic result. Total arrest time 18
minutes.
- Recurrent ___. First episode of RLE DVT in late ___, treated
with warfarin for one year. Then presented with acute pulmonary
embolism with bilateral DVT in ___, unprovoked (had prior 3 
hr
car ride only). Treated with IV tPA 50 mg, and subsequently
anticoagulated with rivaroxaban, now warfarin since PTE.
- Protein C deficiency
- Diabetes, thought to be more type I physiology, on
insulin/metformin. Diagnosed around ___, on insulin almost 
since
diagnosis
- Lower extremity neuropathy, thought due to diabetes vs. lumbar
disc disease
- Chronic back pain/DJD
- Hyperlipidemia
- Retained epicardial pacer wire with PTE surgery 
- s/p bilateral knee surgeries

Past Surgical History: 
- ___ Revision of left below knee amputation site. 
- ___ Left below knee amputation
- ___ Left SFA to ___ bypass with ___ vein, left 
fourth
toe amputation, angioscopy with lysis of valves.
- ___ Left lower extremity angiogram
 
Social History:
___
Family History:
Mother had recurrent ___, died of pancreatic cancer in her ___ 
but clots started in her ___. Father had PE around age ___ and 
told patient he had Factor V Leiden. Grandfather with lung 
cancer. There is no known family history of pulmonary 
hypertension.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
========================
GENERAL: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, poor dentition  

 NECK: supple, bounding carotids  
 LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: tachycardic and regular, normal S1 S2  
 ABD: soft, ___, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
 EXT: RLE is warm with a shallow based ulcer over the ___ 
toe, cark, concentric purplish black ulcer over heel  
 NEURO: grossly intact by observation  
 
DISCHARGE PHYSICAL EXAM
=========================
Temp 98.3, BP 126/78, HR 92, RR 16, O2 100% RA
GENERAL: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, poor dentition  

 NECK: supple, bounding carotids  
 LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: tachycardic and regular, normal S1 S2  
 ABD: soft, ___, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
 EXT: right ___ bypass incisions well healing, no erythema or 
drainage, There is a 1cm area of the incision superior to the 
knee with necrotic skin changes that has been stable post 
operatively without erythema or drainage. right ___ cyanotic 
discoloration. His right foot has a palpable DP and dopplerbale 
___.  On his right biceps where PICC was placed, there is mild 
erythema (<2mm) with small amount of drainage but arm is 
___. 
 NEURO: grossly intact by observation  
 
Pertinent Results:
ADMISSION LABS: 
===============
___ 03:55PM BLOOD ___ 
___ Plt ___
___ 03:55PM BLOOD ___ ___
___ 03:55PM BLOOD ___ 
___
___ 03:55PM BLOOD ___
___ 03:55PM BLOOD ___
___ 04:01PM BLOOD ___ 
___ Base XS--9 ___
___ 04:01PM BLOOD ___

___ XR of the Right foot: Unremarkable radiographs of the right 
foot. 

___ CTA:
1. Occlusion of the right common femoral artery, appears acute, 
with pelvic collateral supplying the branches of the right deep 
femoral artery.  Minimal flow into the right lower leg with 
single vessel runoff noted.  Further details as above. 
2. Proximal thrombus within the ___. 
3. Chronic appearance of right internal artery occlusion with 
distal 
reconstitution noted. 
4. Probable chronic occlusion of the left superficial femoral 
artery in this patient with prior left ___ 
amputation. 
5. Chronic left renal infarct. 

___: CXR PICC placement
Compared to chest radiographs ___ through ___.  
Lungs are clear.  No appreciable pleural effusion.  Heart size 
normal. 
New right PIC line ends close to the superior cavoatrial 
junction. 

___ VEIN MAPPING LOWER EXTREMITY
RIGHT: The right greater saphenous vein in the proximal thigh 
measures 0.48 and 0.54 cm, midthigh 0.37 and 0.17 cm, distal 
thigh 0.17 and 0.45  cm, mid knee 0.42 cm, proximal calf 0.32 
cm, mid calf 0.32 cm, distal calf 0.31 cm.  Right small 
saphenous vein with thickened wall and possible chronic 
thrombus. 
LEFT: The Left greater saphenous vein cannot be visualized.  
Status post Left BKA.
IMPRESSION:  
Patent right greater saphenous vein with measurements as above. 
Right small saphenous vein with thickened wall possible chronic 
thrombus. 
Left greater saphenous vein was not visualized. 

___ VEIN MAPPING UPPER EXTREMITY
RIGHT: 
The cephalic vein measures 0.22 cm at the wrist, 0.24 cm at the 
distal 
forearm, 0.2 cm cm at the mid forearm with thickened walls and 
partially 
compressible,  0.45 cm at the antecubital fossa, 0.39 cm at the 
proximal arm, 0.40 cm at the mid arm and 0.39 cm at the distal 
arm. The basilic vein measures  0.11 cm at the antecubital 
fossa, 0.31 cm at its mid portion, and 0.31 cm at the proximal 
portion. 
LEFT: The cephalic vein measures 0.15 cm at the wrist,  0.17 cm 
at the mid forearm, 0.38 cm at the proximal forearm, 0.22 cm at 
the antecubital fossa, 0.31 cm at he proximal arm, 0.30 cm at 
the mid arm and 0.16 cm at the distal arm. The basilic vein 
measures  0.19 cm at the antecubital fossa, 0.20 cm at its mid 
portion, and 0.21 cm at the proximal portion. 
IMPRESSION: Patent bilateral cephalic and basilic veins with 
measurements as above. 

___ ABI/PVR:
On the ___, monophasic doppler waveforms were seen at the 
right 
superficial femoral, popliteal, and dorsalis pedis arteries.  
The right ABI was 0.30 at rest.  Pulse volume recordings 
demonstrate moderately abnormal the low thigh, severely abnormal 
at the calf, and flat line at the ankle, metatarsal and digit. 
IMPRESSION:  
Severely abnormal right ABI at rest with pulse volume recordings 
waveform that are severely diminished at the the thigh and calf, 
with no appreciable volume change at the ankle, metatarsal, 
digit. 

CXR ___ are low volume with bibasilar atelectasis.  
___ PICC line projects to the cavoatrial junction.  
Cardiomediastinal silhouette is stable.  There is a stable small 
right pleural effusion.  No pneumothorax is seen.

___ 04:47AM BLOOD ___ 
___ Plt ___
___ 04:47AM BLOOD ___ ___
___ 04:47AM BLOOD ___ 
___
___ 04:47AM BLOOD ___
___ 03:55PM BLOOD ___
___ 06:04AM BLOOD ___
___ 05:19AM BLOOD ___ 
___ year old male with protein C deficiency complicated by 
recurrent arterial and venous thromboembolisms s/p L BKA 
presented with right leg ischemia secondary to acute on chronic 
thromboembolism and DKA. He had a 1 day stay in the ICU prior to 
going to the OR for operative repair of the ischemic right leg. 

ACUTE ISSUES
===========================
# Ischemic right leg
Abrupt cutoff of flow to right common femoral, with several 
ulcers. Vascular surgery has been consulted and is planning on 
going to OR on ___. Pain control with dilaudid PCA, standing 
acetaminophen, gabapentin.  On ___ he underwent right common 
femoral arteriography endarterectomy, SFA/profunda thrombectomy 
and diagnostic angiogram without complication.  He remained in 
sinus tachycardia and vein mapping and arterial studies were 
performed on ___ and ___ which demonstrated a right ABI of 0.3 
with monophasic waveforms.  He was continued on a heparin drip 
and was prepared for bypass on ___ of the right lower extremity 
from the right common femoral artery to the anterior tibial 
artery using spliced ipsilateral greater saphenous vein.  
Angioscopic with valve lysis was also performed at that time.  
Please see operative note for more details.  He tolerated the 
procedure well and the signals in his right foot were 
dopplerable.  In the PACU his right foot was noted to be dusky 
or/cooler in color and he no longer had dopplerable dorsalis 
pedis pulse.  Heparin drip was started and overnight his foot 
became warmer and pinker with a return of a dopplerable DP.  On 
___ the patient was out of the bed to the chair and his ___ 
and Foley were removed his pain regimen continue to be adjusted 
to ensure adequate pain control and his right lower extremity 
remained Ace wrap to reduce swelling on 812 physical therapy 
evaluated Mr. ___ and recommended home with outpatient 
physical therapy ___.  On ___, his DP pulse was palpable 
and his ___ pulse was still dopplerable.  He will plan to go home 
with ___ services for wound care and blood sugar checks.

# Protein C deficiency
Complicated by multiple clots, massive PE requiring 
thrombectomy, BKA. Patient was on Lovenox 70 BID prior to 
presentation and reportedly has not missed a dose. Therefore, 
this would represent a failure of anticoagulation. Was on 
heparin gtt given possibility of surgical procedures. Hematology 
consulted and recommended switch to enoxaparin 80mg BID once 
procedures are finished.  While he was in the hospital, he was 
kept on heparin drip and transitioned to Lovenox on the day of 
discharge.
Plan for lifelong use of lovenox given he has developed ___ on 
both DOAC and warfarin therapy.  He will ___ with his 
hematologist in early ___.

# Sinus tachycardia
Overall low concern for sepsis given resolution of leukocytosis 
with IVF resuscitation. Afebrile in MICU. Patient also reports 
that sinus tachycardia is baseline for him.  Postoperatively, 
EKGs were obtained to confirm sinus tachycardia and his home 
metoprolol dose was continued.  He will ___ with his 
primary care doctor later this week for further evaluation and 
continuity of care purposes

# DMII with DKA
DKA resolved in ED but required MICU admission for monitoring. 
Transitioned to subcutaneous insulin.  He was followed daily by 
the ___ diabetes team and his insulin was adjusted 
accordingly.  His hemoglobin A1c on admission was 13.6% and he 
will ___ with ___ next week to confirm 
medication compliance and ensure adequate glucose monitoring.  
He was discharged on a regimen of 30 units of glargine and 8 
units of NovoLog with each meal as well as sliding scale.  His 
blood sugars were more controlled with blood sugars in the 
___ range

# Depression. Continued fluoxetine

TRANSITIONAL ISSUES
===================
[ ] New lovenox dosing: 80mg BID
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enoxaparin Sodium 70 mg SC Q12H 
2. Cyclobenzaprine 5 mg PO TID 
3. FLUoxetine 40 mg PO DAILY 
4. Gabapentin 600 mg PO TID 
5. OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN Pain - 
Moderate 
6. Lisinopril 2.5 mg PO DAILY 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. Metoprolol Succinate XL 50 mg PO DAILY 
9. Glargine 30 Units Bedtime
Insulin SC Sliding Scale using Novolog Insulin
10. Atorvastatin 40 mg PO QPM 
11. Pantoprazole 20 mg PO Q24H 
12. Jardiance (empagliflozin) 10 mg oral DAILY 

 
Discharge Medications:
\\
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0 
2.  Aspirin EC 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Enoxaparin Sodium 80 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 80 mg/0.8 mL 1 syringe SC twice a day Disp #*60 
Syringe Refills:*0 
4.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin [Flomax] 0.4 mg 1 capsule(s) by mouth at bedtime 
Disp #*30 Capsule Refills:*0 
5.  Glargine 30 Units Bedtime
Novolog 8 Units Breakfast
Novolog 8 Units Lunch
Novolog 8 Units Dinner
Insulin SC Sliding Scale using Novolog Insulin 
6.  Atorvastatin 40 mg PO QPM  
7.  Cyclobenzaprine 5 mg PO TID  
8.  FLUoxetine 40 mg PO DAILY  
9.  Gabapentin 600 mg PO TID  
10.  Jardiance (empagliflozin) 10 mg oral DAILY  
11.  Lisinopril 2.5 mg PO DAILY  
12.  MetFORMIN (Glucophage) 1000 mg PO BID  
13.  Metoprolol Succinate XL 50 mg PO DAILY  
14.  OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN Pain - 
Moderate  
15.  Pantoprazole 20 mg PO Q24H  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Peripheral arterial disease with critical limb ischemia. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Lower Extremity Bypass Surgery Discharge Instructions 

WHAT TO EXPECT: 
1. It is normal to feel tired, this will last for ___ weeks 
 You should get up out of bed every day and gradually increase 
your activity each day 
 Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs 
 Increase your activities as you can tolerate- do not do too 
much right away! 
2. It is normal to have swelling of the leg you were operated 
on: 
 Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night 
 Avoid prolonged periods of standing or sitting without your 
legs elevated 
3. It is normal to have a decreased appetite, your appetite will 
return with time 
 You will probably lose your taste for food and lose some 
weight 
 Eat small frequent meals 
 It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing 
 To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication 

MEDICATION: 
 Take aspirin as instructed 
 Follow your discharge medication instructions 

ACTIVITIES: 
 No driving until ___ visit and you are no longer taking 
pain medications 
 Unless you were told not to bear any weight on operative foot: 

 You should get up every day, get dressed and walk 
 You should gradually increase your activity 
 You may up and down stairs, go outside and/or ride in a car 
 Increase your activities as you can tolerate- do not do too 
much right away! 
 No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
 You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry 
 Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed 

CALL THE OFFICE FOR: ___ 
 Redness that extends away from your incision 
 A sudden increase in pain that is not controlled with pain 
medication 
 A sudden change in the ability to move or use your leg or the 
ability to feel your leg 
 Temperature greater than 100.5F for 24 hours 
 Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions 

 
Followup Instructions:
___